US05864039
Tin tetrachloride (1.15 ml) was added to a solution of 6-bromohexanoyl chloride (2 g) and 2-methylbenzo[b]furan (1.24 g) in carbon disulfide (30 ml) under ice-cooling, the mixture was stirred at room temperature for 3 hr. Ice water and conc. hydrochloric acid were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 2.2 g of 6-bromo-1-(2-methyl-3-benzo[b]furyl)-1-hexanone.

reactant | Tin tetrachloride | 1.15 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | 6-bromohexanoyl chloride | 2 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | 2-methylbenzo[b]furan | 1.24 g | CC1=CC2=C(O1)C=CC=C2 | C9H8O
reactant | hydrochloric acid | Cl | ClH
solvent | carbon disulfide | 30 ml | C(=S)=S | CS2
product | 6-bromo-1-(2-methyl-3-benzo[b]furyl)-1-hexanone | 2.2 g | BrCCCCCC(=O)C=1C2=C(OC1C)C=CC=C2 | C15H17BrO2
